US05473080
8. N-Allyl-2,2,2-trifluoro-N-[3-(3-pyridyl)allyl]acetamide
16.1 g (76.6 mmol) of trifluoroacetic anhydride were slowly added dropwise to a solution of 10.0 g (57.5 mmol) of N-allyl-N-[3-(3-pyridyl)allyl]amine and 10.7 ml of triethylamine in 100 ml of tetrahydrofuran at 0° C. The mixture was then stirred at room temperature for 2 h. The solution was subsequently poured into 250 ml of ice-water and extracted three times with 150 ml of methyl tertbutyl ether each time. The combined organic phases were dried over sodium sulfate and concentrated: 14.3 g (92%) of dark brown oil.

reactant | trifluoroacetic anhydride | 76.6 mmol, 16.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | N-allyl-N-[3-(3-pyridyl)allyl]amine | 57.5 mmol, 10.0 g | C(C=C)NCC=CC=1C=NC=CC1 | C11H14N2
reactant | triethylamine | 10.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Allyl-2,2,2-trifluoro-N-[3-(3-pyridyl)allyl]acetamide | C(C=C)N(C(C(F)(F)F)=O)CC=CC=1C=NC=CC1 | C13H13F3N2O
